US08895761B2
To a mixture of 2,2,4,4-tetramethylcyclohexane-1,3,5-trione (182 mg, 1 mmol) and 4-dimethylaminopyridine (610 mg, 5 mmol) under an atmosphere of nitrogen, is added dry chloroform (5.6 ml), followed by stirring at room temperature until dissolution is complete. To this solution is then added dry toluene (2 ml), and 3,5-dimethylbiphenylead triacetate (0.5 M solution in dry chloroform, 2.4 ml, 1.2 mmol). This solution is then heated under reflux for 1 hour. The reaction mixture is cooled to room temperature, acidified to pH 1 with 2N aqueous hydrochloric acid, filtered and the filtrate is extracted with dichloromethane (2×40 ml). The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is further purified by column chromatography on silica gel to give 6-(3,5-dimethylbiphenyl-4-yl)-2,2,4,4-tetramethylcyclohexane-1,3,5-trione (166 mg).

reactant | 2,2,4,4-tetramethylcyclohexane-1,3,5-trione | 1 mmol, 182 mg | CC1(C(CC(C(C1=O)(C)C)=O)=O)C | C10H14O3
reactant | chloroform | 5.6 ml | C(Cl)(Cl)Cl | CHCl3
reactant | triacetate | 1.2 mmol, 0.5 M, 2.4 ml | CC(=O)CC(=O)CC(=O)O | C6H8O4
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 5 mmol, 610 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-(3,5-dimethylbiphenyl-4-yl)-2,2,4,4-tetramethylcyclohexane-1,3,5-trione | 166 mg | CC=1C=C(C=C(C1C1C(C(C(C(C1=O)(C)C)=O)(C)C)=O)C)C1=CC=CC=C1 | C24H26O3
